US07435823B2
Step (e) Preparation of 7-((6,7-bis(methoxy)-4-quinolinyl)oxy)-N-(3-chlorophenyl)-2-naphthalenecarboxamide
A slurry of 7-(6,7-dimethoxyquinolin-4-yloxy)-2-naphthoic acid (0.54 g, 1.44 mmol) in 10 mL of C2O2Cl2 and 2 drops of DMF was stirred at RT. After 2 h, the solution was concentrated to dryness and placed under high vacuum overnight. A portion of the crude residue (0.075 g, 0.191 mmol) was dissolved in 1 mL of CH2Cl2. To the resulting solution was added DIPEA (0.133 mL, 0.764 mmol), 3-chloroaniline (0.024 mL, 0.229 mmol) and a catalytic amount of DMAP. The reaction was stirred under a N2 atmosphere for 16 h. The reaction was diluted with EtOAc, and washed with saturated aqueous NaHCO3. The organic layer was dried (MgSO4), filtered and concentrated. The residue was passed through a medium-pressure silica gel column (solvent gradient: 95:5 CH2Cl2:MeOH; 90:10 CH2Cl2:MeOH) to afford the desired crude compound. The fractions were concentrated to dryness to afford a solid residue. The residue was triturated with Et2O/Hexanes to afford the desired compound as a pale yellow solid. MS (ESI, pos. ion) m/z: 485.0 (M+1). Mass Calc'd for C28H21ClN2O4: 484.937.

reactant | 7-(6,7-dimethoxyquinolin-4-yloxy)-2-naphthoic acid | 1.44 mmol, 0.54 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)C(=O)O | C22H17NO5
reactant | DIPEA | 0.764 mmol, 0.133 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloroaniline | 0.229 mmol, 0.024 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-((6,7-bis(methoxy)-4-quinolinyl)oxy)-N-(3-chlorophenyl)-2-naphthalenecarboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)C(=O)NC1=CC(=CC=C1)Cl | C28H21ClN2O4
